### PR TITLE
[Merged by Bors] - perf(NumberTheory): speed up some slow declarations

### PR DESCRIPTION
**Pull request by j-loreaux**
---

discovered while investigating slowdowns in #16975, see [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/performance.20issues.20with.20.60SubringClass.60.2E/near/472715436)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
!bench

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 1]
```diff
@@ -392,9 +392,9 @@ theorem norm_pow_sub_one_of_prime_pow_ne_two {k s : ℕ} (hζ : IsPrimitiveRoot
     [hpri : Fact (p : ℕ).Prime] [IsCyclotomicExtension {p ^ (k + 1)} K L]
     (hirr : Irreducible (cyclotomic (↑(p ^ (k + 1)) : ℕ) K)) (hs : s ≤ k)
     (htwo : p ^ (k - s + 1) ≠ 2) : norm K (ζ ^ (p : ℕ) ^ s - 1) = (p : K) ^ (p : ℕ) ^ s := by
--- Porting note: `by simp` was `by linarith` that now fails.
+-- Porting note: `by omega` was `by linarith` that now fails.
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:395]: Omega is better anyway if it works, so I'd remove the note

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 2]
```diff
@@ -113,9 +113,9 @@ variable {C}
 /-- The `PowerBasis` given by a primitive root `η`. -/
 @[simps!]
 protected noncomputable def powerBasis : PowerBasis K L :=
-  PowerBasis.map (Algebra.adjoin.powerBasis <| (integral {n} K L).isIntegral ζ) <|
-    (Subalgebra.equivOfEq _ _ (IsCyclotomicExtension.adjoin_primitive_root_eq_top hζ)).trans
-      Subalgebra.topEquiv
+  letI pb := Algebra.adjoin.powerBasis <| (integral {n} K L).isIntegral ζ;
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:116]: I don't think you need the semicolon

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 3]
```diff
@@ -429,8 +425,8 @@ theorem norm_pow_sub_one_of_prime_pow_ne_two {k s : ℕ} (hζ : IsPrimitiveRoot
     rw [Nat.sub_add_comm hs, pow_coe]
 -- Porting note: the following `haveI` were not needed because the locale `cyclotomic` set them
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:426]: If you keep this comment:
```suggestion
-- Porting note: the following `have` were not needed because the locale `cyclotomic` set them
```

File: Mathlib/NumberTheory/NumberField/Discriminant.lean [hunk 4]
```diff
@@ -337,6 +337,7 @@ theorem finite_of_discr_bdd_of_isReal :
       (Set.finite_Icc (-C : ℤ) C)) (fun ⟨K, hK₀⟩ ⟨hK₁, hK₂⟩ ↦ ?_)
   -- We now need to prove that each field is generated by an element of the union of the rootset
   simp_rw [Set.mem_iUnion]
+  have : CharZero K := SubsemiringClass.instCharZero K
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/NumberField/Discriminant.lean:340]: Maybe add a note here and below that this should be purely an optimization?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 5]
```diff
@@ -403,22 +403,18 @@ theorem norm_pow_sub_one_of_prime_pow_ne_two {k s : ℕ} (hζ : IsPrimitiveRoot
...
-        refine Subalgebra.ext fun x => ⟨fun hx => adjoin_le ?_ hx, fun hx => adjoin_le ?_ hx⟩
-        · simp only [Set.singleton_subset_iff, SetLike.mem_coe]
-          exact Subalgebra.add_mem _ (subset_adjoin (mem_singleton η)) (Subalgebra.one_mem _)
-        · simp only [Set.singleton_subset_iff, SetLike.mem_coe]
-          nth_rw 2 [← add_sub_cancel_right η 1]
-          exact Subalgebra.sub_mem _ (subset_adjoin (mem_singleton _)) (Subalgebra.one_mem _)
--- Porting note: the previous proof was `rw [H] at this; exact this` but it now fails.
-      exact IsCyclotomicExtension.equiv _ _ _ (Subalgebra.equivOfEq _ _ H)
--- Porting note: the next `refine` was `rw [H]`, abusing defeq, and it now fails.
+    suffices IsCyclotomicExtension {p ^ (k - s + 1)} K K⟮η + 1⟯ by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:406]: While you're here, the suffices seems pretty redundant when you could just `rw` with the `have` you prove inside it

**Review by Ruben-VandeVelde — COMMENTED** [review]
Impressive!

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 6]
```diff
@@ -113,9 +113,9 @@ variable {C}
 /-- The `PowerBasis` given by a primitive root `η`. -/
 @[simps!]
 protected noncomputable def powerBasis : PowerBasis K L :=
-  PowerBasis.map (Algebra.adjoin.powerBasis <| (integral {n} K L).isIntegral ζ) <|
-    (Subalgebra.equivOfEq _ _ (IsCyclotomicExtension.adjoin_primitive_root_eq_top hζ)).trans
-      Subalgebra.topEquiv
+  letI pb := Algebra.adjoin.powerBasis <| (integral {n} K L).isIntegral ζ
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:116]:
```suggestion
  -- this is purely an optimization
  letI pb := Algebra.adjoin.powerBasis <| (integral {n} K L).isIntegral ζ
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by j-loreaux** [comment]
bors merge
